US03966746
a. [[[1-(2-furyl)methyl-5-pyrazolyl]amino]methylene]malonic acid diethyl ester
163 g of 1-(2-furyl)methyl-5-aminopyrazole (1 mol) and 216 g of ethoxymethylene malonic acid diethyl ester (1 mol) are heated to 130° (bath temperature) until the theoretical amount of alcohol is distilled off. The remaining oil, [[[1-(2-furyl)methyl-5-pyrazolyl]amino]methylene]malonic acid diethyl ester, is recrystallized from methanol, yield 280 g (84%), m.p. 84°-86 °.

reactant | 1-(2-furyl)methyl-5-aminopyrazole | 1 mol, 163 g | O1C(=CC=C1)CN1N=CC=C1N | C8H9N3O
reactant | ethoxymethylene malonic acid diethyl ester | 1 mol, 216 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
product | [[[1-(2-furyl)methyl-5-pyrazolyl]amino]methylene]malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=CNC1=CC=NN1CC=1OC=CC1)=O | C16H19N3O5
